US07208494B2
A solution of 0.010 g (4R,9aR)-7-fluoro-6-[1-(R)-hydroxy-ethyl]-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester in 1 mL dioxane and 0.1 mL 2M hydrochloric acid was kept at room temperature for 30 min. The solvent was evaporated and the residue was purified by chromatography on silica gel with dichloromethane:methanol:ammonia (100:10:1) to yield 0.005 g 1-(S)-[(4R,9aR)-7-fluoro-4-methyl-1,2,3,4,9,9a-hexahydro-2,4a,5-triaza-fluoren-6-yl]-ethanol as a colorless gum.

reactant | (4R,9aR)-7-fluoro-6-[1-(R)-hydroxy-ethyl]-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 0.010 g | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC(=C(N=C3N2[C@@H](C1)C)[C@@H](C)O)F | C18H26FN3O3
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | hydrochloric acid | 2M, 0.1 mL | Cl | ClH
product | 1-(S)-[(4R,9aR)-7-fluoro-4-methyl-1,2,3,4,9,9a-hexahydro-2,4a,5-triaza-fluoren-6-yl]-ethanol | 0.005 g | FC1=C(N=C2N3[C@@H](CNC[C@H]3CC2=C1)C)[C@H](C)O | C13H18FN3O
